US04727180
To a solution of 63.2 g (0.20 mole) of 4-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]benzenepropanoic acid in 160 ml of concentrated sulfuric acid is added 40 ml of fuming nitric acid (90%) dropwise with stirring at 0°-5°. Following the nitric acid addition the solution is allowed to warm to 20° with stirring over a 1-hour period. The solutionis then added to a mixture of ice and water and allowed to stand for 18 hours. A precipitate results and is filtered, washed with water and dissolved in ether to obtain a solution which is washed with water, dried with anhydrous magnesium sulfate, filtered, and evaporated to give a residual solid. The residual solid is recrystallized from chlorobutane to give 40 g of 2-nitro-4-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]benzenepropanoic acid having a melting point of 115°-116°.

reactant | 4-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]benzenepropanoic acid | 0.20 mole, 63.2 g | FC(C(C(F)(F)F)(O)C1=CC=C(C=C1)CCC(=O)O)(F)F | C12H10F6O3
reactant | nitric acid | 40 ml | [N+](=O)(O)[O-] | HNO3
reactant | water | O | H2O
solvent | sulfuric acid | 160 ml | S(O)(O)(=O)=O | H2O4S
product | 2-nitro-4-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]benzenepropanoic acid | 40 g | [N+](=O)([O-])C1=C(C=CC(=C1)C(C(F)(F)F)(C(F)(F)F)O)CCC(=O)O | C12H9F6NO5
